US07153848B2
(5R,6S)-rel-13-Cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid
Sodium hydroxide (0.2′ 1 mL of 1 N, 0.2 mmol) was added to a solution of methyl (5R,6S)-rel-13-cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate (20 mg, 0.049 mmol) in methanol (0.5 mL) and tetrahydrofuran (0.5 mL) in a microwave vial. The vial was sealed and the contents heated at 90° C. for 7 min in a microwave apparatus. The solution was acidified with dilute hydrochloric acid and a precipitate was observed to form. The solid was collected by filtration and purified on the Prep. reverse phase HPLC. The product containing fraction was concentrated on a Speed Vac® to leave the titled compound as a white solid (18 mg, 94%). ESI-MS m/z 392 (MH+) 1H NMR (500 MHz, MeOD) δ 1.25–1.34 (m, 1 H) 1.39–1.54 (m, 2 H) 1.60–1.67 (m, 1 H) 1.77–1.86 (m, 2 H) 1.93–2.00 (m, 1 H) 2.01–2.17 (m, 3 H) 2.93–3.02 (m, 1 H) 3.36 (m, 1 H) 4.43 (d, J=4.27 Hz, 1 H) 4.54 (m, 1 H) 4.72 (dd, J=14.19, 7.17 Hz, 1 H) 7.46 (m, 2 H) 7.53 (m, 1 H) 7.74 (dd, J=8.39, 1.37 Hz, 1 H) 7.79 (d, J=7.63 Hz, 1 H) 7.90 (d, J=8.24 Hz, 1 H) 8.19 (s, 1 H).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | methyl (5R,6S)-rel-13-cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.049 mmol, 20 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)OC | C25H27NO4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | (5R,6S)-rel-13-Cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 18 mg, 94% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)O | C24H25NO4
